US08802864B2
b) 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(2,3-dihydro-1-benzofuran-5-yl)-2-fluorophenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.351 mmol) in dioxane (1.5 mL) was treated with 5-bromo-2,3-dihydro-1-benzofuran (0.319 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (18 mg), and 2M aq potassium carbonate (0.956 mmol). The reaction mixture was purged with nitrogen, sealed, and stirred at 100° C. overnight. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH˜4 using 1N aq HCl and was extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (20-50% acetonitrile/water+0.1% NH4OH) to afford the title compound (29%). MS(ES)+ m/e 449.0 [M+H]+.

reactant | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.351 mmol | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C23H30BFN4O4
reactant | 5-bromo-2,3-dihydro-1-benzofuran | 0.319 mmol | BrC=1C=CC2=C(CCO2)C1 | C8H7BrO
reactant | potassium carbonate | 0.956 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(2,3-dihydro-1-benzofuran-5-yl)-2-fluorophenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 29% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C=1C=CC2=C(CCO2)C1)F | C25H25FN4O3
